US06821967B2
a. Tert.butyl 3-methyl-4-quinolin-2-yl-piperazine-1-carboxylate
A reaction mixture of 1 g (4.99 mmol) of tert.butyl 3-methyl-piperazine-1-carboxylate, 0.588 g (3.6 mmol) of 2-chloroquinoline and 0.498 g (3.6 mmol) of potassium carbonate is heated to 130° C. for three hours. Then the solvent is distilled off. The residue is purified by column chromatography on silica gel (eluant: dichloromethane/ethanol/ammonia=30:1).

reactant | tert.butyl 3-methyl-piperazine-1-carboxylate | 4.99 mmol, 1 g | CC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-chloroquinoline | 3.6 mmol, 0.588 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | potassium carbonate | 3.6 mmol, 0.498 g | C([O-])([O-])=O.[K+].[K+]
product | Tert.butyl 3-methyl-4-quinolin-2-yl-piperazine-1-carboxylate | CC1CN(CCN1C1=NC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C19H25N3O2
